US05000775
Benzyl 2-[(1-methylethyl)amino]-4-(trifluoromethyl)-5-thiazolecarboxylate
A reaction vessel was charged with 25 ml of acetonitrile, 2.94 g (49.8 mmol) of iso-propylamine, and 8 g (24.9 mmol) of benzyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate (prepared as described in U.S. Pat. No. 4,199,506). The reaction mixture was heated at reflux for 16 hours. The mixture was then cooled to ambient temperature, diluted with ethyl ether, washed with large amounts of water, dried over magnesium sulfate, and concentrated under reduced pressure to yield 5.32 g of a gold oil. This oil was subjected - to Kugelrohr distillation (145°-155° C. @ 0.5 mm Hg) to yield 4.97 of a gold oil which was then triturated in hexane to yield 3.99 g of a yellow solid product (m.p.=49°-53° C.) identified in Table I.

reactant | acetonitrile | 25 ml | C(C)#N | C2H3N
reactant | iso-propylamine | 49.8 mmol, 2.94 g | C(C)(C)N | C3H9N
reactant | benzyl 2-chloro-4-trifluoromethyl-5-thiazolecarboxylate | 24.9 mmol, 8 g | ClC=1SC(=C(N1)C(F)(F)F)C(=O)OCC1=CC=CC=C1 | C12H7ClF3NO2S
solvent | ethyl ether | C(C)OCC | C4H10O
product | Benzyl 2-[(1-methylethyl)amino]-4-(trifluoromethyl)-5-thiazolecarboxylate | 5.32 g | CC(C)NC=1SC(=C(N1)C(F)(F)F)C(=O)OCC1=CC=CC=C1 | C15H15F3N2O2S
